US04128658
2-[[[5-[4-(Dimethylamino)butyl]-2-furanyl]methyl]thio]ethanamine
Cysteamine hydrochloride (4.5 g) was added to a cooled solution of potassium-t-butoxide (8.98 g) in dry dimethylformamide (125 ml). The mixture was stirred for 20 min and [5-[4-(dimethylamino)butyl]-2-furanyl]methyl ethanoate (9.6 g) was added. The reaction was heated at 90° for 4 hr, poured onto an ice-water mixture and extracted with chloroform. Distillation of the organic extract gave a yellow oil which after column chromatography on silica, using methanol/0.880 ammonia (9:1) as eluent, and a further distillation afforded a colourless oil b.p. 140°/0.05 mm Hg. Found: C, 60.81; H, 9.86; N, 10.44. Calc. for C13H24N2OS: C, 60.91; H, 9.44; N, 10.93%.

reactant | Cysteamine hydrochloride | 4.5 g | Cl.NCCS
reactant | potassium-t-butoxide | 8.98 g | CC(C)([O-])C.[K+]
reactant | [5-[4-(dimethylamino)butyl]-2-furanyl]methyl ethanoate | 9.6 g | C(C)(=O)OCC=1OC(=CC1)CCCCN(C)C | C13H21NO3
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 2-[[[5-[4-(Dimethylamino)butyl]-2-furanyl]methyl]thio]ethanamine | CN(CCCCC1=CC=C(O1)CSCCN)C | C13H24N2OS
